US05212164
A. (E,E)-1-Chloro-3,7,11-trimethyl-2,6,10-dodecatriene
(Note: all temperatures indicated are for the contents of the reaction flask). To a stirred solution of 299 mg (2.24 mmol) of N-chlorosuccinimide in 15 ml of dichloromethane at -30° C. under argon was added 0.18 ml (2.45 mmol) of distilled dimethyl sulfide over 5 minutes. After 10 minutes at -30° C., the reaction was allowed to warm to 0° C. for 10 minutes, followed by cooling to -40° C. A solution of 441.4 mg (1.99 mmol) of (E,E)-3,7,11-trimethyl-2,6,10-tridecatrien-1-ol in 5 ml of dichloromethane was added dropwise over 10 minutes. The reaction was allowed to warm gradually to 0° C. over 1 hour, and then maintained at 0° C. for 1 hour. After quenching with cold water, the mixture was extracted with hexane and the hexane extract was washed with cold water and cold brine, dried (MgSO4) and evaporated to afford 483 mg of a crude product. Rapid flash chromatography on 20 g of silica gel eluted with 3:97 ethyl acetate:pet ether provided 406.5 mg (85%) of a colorless liquid. 13C NMR indicated that this material contained a trace (3%) impurity.

reactant | N-chlorosuccinimide | 2.24 mmol, 299 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl sulfide | 2.45 mmol, 0.18 ml | CSC | C2H6S
reactant | (E,E)-3,7,11-trimethyl-2,6,10-tridecatrien-1-ol | 1.99 mmol, 441.4 mg | C\C(=C/CO)\CC\C=C(\CCC=C(CC)C)/C | C16H28O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (E,E)-1-Chloro-3,7,11-trimethyl-2,6,10-dodecatriene | 406.5 mg, 85% | ClC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C | C15H25Cl
